US05281747
A solution of 0.5 g of isobutyl P-(3-tert.-butoxycarbonylamino-2-oxo-propyl)-P-methyl-phosphinate in 10 ml of 36% aqueous hydrochloric acid is heated to reflux for a period of 4 hours. The mixture is then allowed to cool to room temperature, concentrated under reduced pressure, and co-evaporated twice with 20 ml of water. The crude product is dissolved in 20 ml of ethanol, 1 ml of propylene oxide is added, and the mixture is stirred until the precipitated solid is free of halogen. The solid is filtered and dried to give P-(3-amino-2-oxo-propyl)-P-methyl-phosphinic acid, m.p. 148°-149°, 31P-NMR spectrum: δ=32.8 ppm (D2O).

reactant | isobutyl P-(3-tert.-butoxycarbonylamino-2-oxo-propyl)-P-methyl-phosphinate | 0.5 g | C(C)(C)(C)OC(=O)NCC(CP(OCC(C)C)(=O)C)=O | C13H26NO5P
solvent | hydrochloric acid | 10 ml | Cl | ClH
product | P-(3-amino-2-oxo-propyl)-P-methyl-phosphinic acid | NCC(CP(O)(=O)C)=O | C4H10NO3P
